US07943669B2
Step B: [4-(3-Bromo-5-isobutoxy-phenylsulfanyl)-2,5-dimethyl-phenoxy]-acetic Acid Ethyl Ester
1,3-Dibromo-5-isobutoxy-benzene (1.66 g; 5.4 mmol), (4-Mercapto-2,5-dimethylphenoxy)-acetic acid ethyl ester (1.0 g; 4.1 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.11 g; 0.12 mmol), and 1,1′-bis-(diphenylphosphino)ferrocene (0.14 g; 0.25 mmol) were added to a dry reaction flask under an atmosphere of nitrogen. Triethylamine (2.3 mL) and NMP (10 mL) was added, and the reaction mixture was stirred in a microwave oven for 1 h at 140° C. A 5% aqueous citric acid solution (150 mL) was added to the reaction mixture, which was extracted with ethyl acetate (4×100 mL). The pooled organic phases were dried and evaporated in vacuo. The crude reaction product was purified by flash chromatography (heptane:ethyl acetate (10:1→1:1). Yield: 1.3 g; 67%. HPLC-MS: m/z: 467.0 (M+); Rt: 3.10 min

reactant | 1,3-Dibromo-5-isobutoxy-benzene | 5.4 mmol, 1.66 g | BrC1=CC(=CC(=C1)OCC(C)C)Br | C10H12Br2O
reactant | (4-Mercapto-2,5-dimethylphenoxy)-acetic acid ethyl ester | 4.1 mmol, 1.0 g | C(C)OC(COC1=C(C=C(C(=C1)C)S)C)=O | C12H16O3S
reactant | Triethylamine | 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | 150 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tris(dibenzylideneacetone)dipalladium | 0.12 mmol, 0.11 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)ferrocene | 0.25 mmol, 0.14 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | [4-(3-Bromo-5-isobutoxy-phenylsulfanyl)-2,5-dimethyl-phenoxy]-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C(=C1)C)SC1=CC(=CC(=C1)OCC(C)C)Br)C)=O | C22H27BrO4S
